US09126906B2
A mixture of (R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanol (0.94 g, 3.4 mmol) in toluene (280 mL) and THF (20 mL) was sparged with nitrogen for 15 min, and then a ˜1.1 M solution of hydrazoic acid in toluene (13.8 mL, ˜15 mmol) was added. The flask was cooled in a dry ice-acetone bath. When the internal temperature reached <−60° C., tributylphosphine (1.7 mL, 6.9 mmol), and then diisopropyl azodicarboxylate (1.6 mL, 7.9 mmol) were added. The cooling bath was charged with dry ice for the next 4 h in order to maintain the reaction temperature at <−60° C., and then the temperature was allowed to gradually rise. After 16 h, the internal temperature had climbed to −2° C. Then, silica gel (20 g) was added and the resulting slurry was evaporated. The residue was chromatographed on a silica gel column, using a hexanes-EtOAc gradient. After pooling and evaporating the appropriate fractions, the residue was triturated with heptane (25 mL) and the slurry was filtered. Solids were dried under vacuum, to provide (S)-4-(1-azido-2-(methylsulfonyl)ethyl)-2-ethoxy-1-methoxybenzene as a white solid (0.84 g, 81% yield); HPLC (Hypersil BDS C8, 5.0 μm, 250×4.6 mm, 1.5 mL/min, 278 nm, 90/10 gradient to 80/20 0.1% aqueous TFA/MeOH over 10 min then gradient to 10/90 0.1% aqueous TFA/MeOH over the next 15 min): 17.77 (99.9%); 1H NMR (DMSO-d6) δ 1.33 (t, 3H), 2.99 (s, 3H), 3.55 (dd, J=4.0, 14.7 Hz, 1H), 3.77 (s, 3H), 3.90 (dd, J=9.6, 14.7 Hz, 1H), 3.98-4.13 (m, 2H), 5.01-5.21 (m, 1H), 6.90-7.05 (m, 2H), 7.08 (s, 1H).

reactant | (R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanol | 3.4 mmol, 0.94 g | C(C)OC=1C=C(C=CC1OC)[C@H](CS(=O)(=O)C)O | C12H18O5S
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | tributylphosphine | 6.9 mmol, 1.7 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diisopropyl azodicarboxylate | 7.9 mmol, 1.6 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | dry ice | C(=O)=O | CO2
solvent | toluene | 280 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | ˜15 mmol, 13.8 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-4-(1-azido-2-(methylsulfonyl)ethyl)-2-ethoxy-1-methoxybenzene | 0.84 g, 81% yield | N(=[N+]=[N-])[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C12H17N3O4S
